US09376436B2
3-(Benzenesulfonyl)-2-(4-bromo-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]nonan-6-one (D2)
A mixture of 3-[(E)-(4-bromo-2-pyridyl)methyleneamino]-1-methyl-pyrrolidin-2-one (which may be prepared as described in Description 1) (564.3 mg, 2 mmol) and phenyl vinyl sulfone (339.8 mg, 2.02 mmol) in THF (10 mL) was treated with silver acetate (333.99 mg, 2 mmol). The mixture was stirred at room temp for 2 hours, filtered through Celite and concentrated to give the title compound as a brown gum;

reactant | 3-[(E)-(4-bromo-2-pyridyl)methyleneamino]-1-methyl-pyrrolidin-2-one | 2 mmol, 564.3 mg | BrC1=CC(=NC=C1)\C=N\C1C(N(CC1)C)=O | C11H12BrN3O
reactant | phenyl vinyl sulfone | 2.02 mmol, 339.8 mg | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | silver acetate | 2 mmol, 333.99 mg | C(C)(=O)[O-].[Ag+]
product | 3-(Benzenesulfonyl)-2-(4-bromo-2-pyridyl)-7-methyl-1,7-diazaspiro[4.4]nonan-6-one | C1(=CC=CC=C1)S(=O)(=O)C1C(NC2(C1)C(N(CC2)C)=O)C2=NC=CC(=C2)Br | C19H20BrN3O3S
